US08314256B2
N,N-Dibenzyl-2-(1-methyl-1H-indol-3-yl)-2-oxo-acetamide was synthesized following scheme II above starting from (1-methyl-1H-indol-3-yl)-oxo-acetic acid and dibenzylamine. Yield (70%). HPLC ret. time 3.70 min, 10-99% CH3CN, 5 min run; 1H NMR (400 MHz, DMSO-d6) δ 8.28 (s, 1H), 8.12 (d, J=7.7 Hz, 1H), 7.61 (d, J=8.1 Hz, 1H), 7.43-7.25 (m, 12H), 4.55 (s, 2H), 4.40 (s, 2H), 3.93 (s, 3H); ESI-MS 383.3 m/z (MH+).

reactant | (1-methyl-1H-indol-3-yl)-oxo-acetic acid | CN1C=C(C2=CC=CC=C12)C(C(=O)O)=O | C11H9NO3
reactant | dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | CH3CN | CC#N | C2H3N
product | N,N-Dibenzyl-2-(1-methyl-1H-indol-3-yl)-2-oxo-acetamide | C(C1=CC=CC=C1)N(C(C(=O)C1=CN(C2=CC=CC=C12)C)=O)CC1=CC=CC=C1 | C25H22N2O2
